US07868177B2
A dry 100 ml round bottom flask, under nitrogen, was charged with 4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy) benzenamine (1.72 g, 5.54 mmol), O,O-dipyridin-2-yl carbonothioate (1.35 g, 5.82 mmol), and DCM (37 ml, 0.15 M). The vessel was closed, kept under nitrogen, and mixture stirred at RT for 18 h. The reaction was diluted with 20 ml DCM and washed with water. The organic layer was collected, dried with Na2SO4, filtered, and concentrated to give 4-(2-(4-isothiocyanatophenoxy)pyridin-3-yl)-2-(methylthio)pyrimidine as a yellow solid. MS m/z=353.0 [M+H]+. Calc'd for C17H12N4OS2: 352.43.

reactant | 4-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy) benzenamine | 5.54 mmol, 1.72 g | CSC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)N | C16H14N4OS
reactant | O,O-dipyridin-2-yl carbonothioate | 5.82 mmol, 1.35 g | C(OC1=NC=CC=C1)(OC1=NC=CC=C1)=S | C11H8N2O2S
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.15 M, 37 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-(4-isothiocyanatophenoxy)pyridin-3-yl)-2-(methylthio)pyrimidine | N(=C=S)C1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)SC)C=C1 | C17H12N4OS2
